US05620997
6-Piperidin-1-yl-isothiazolo[5,4-d]pyrimidin-3-one
Using the procedure of Example 20, 20.8 g (87.4 mmol) of 4-mercapto-2-piperidin-1-yl-pyrimidine-5-carboxylic acid amide were treated with 22.2 g (87.4 mmol) of iodine to give 14.37 g of the title compound after recrystallization from dimethylformamide, mp 268°-269° C.

reactant | 4-mercapto-2-piperidin-1-yl-pyrimidine-5-carboxylic acid amide | 87.4 mmol, 20.8 g | SC1=NC(=NC=C1C(=O)N)N1CCCCC1 | C10H14N4OS
reactant | iodine | 87.4 mmol, 22.2 g | II | I2
product | 6-Piperidin-1-yl-isothiazolo[5,4-d]pyrimidin-3-one | 14.37 g | N1(CCCCC1)C1=NC=C2C(=N1)SNC2=O | C10H12N4OS
